US07863294B2
Step 1: tert-Butyl [(1S)-1-(aminocarbonyl)-7-oxononyl]carbamate (T1)
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-8-oxodecanoic acid in dioxane were added Py (1 eq.), Boc2O (1.3 eq) and ammonium bicarbonate (1.26 eq.). The reaction mixture was stirred at RT for 72 hours and then the solvent was evaporated under reduced pressure. The resulting crude was diluted with EtOAc and washed with H2O, 1 N HCl and brine. The organic phase was dried (Na2SO4) and concentrated under reduced pressure to yield a white powder which was as such in the next step. MS (ES) C15H28N2O4 requires: 300, found: 301 (M+H+).

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-8-oxodecanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC(CC)=O | C15H27NO5
reactant | Boc2O | 1.3 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 1.26 eq. | C([O-])(O)=O.[NH4+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | tert-Butyl [(1S)-1-(aminocarbonyl)-7-oxononyl]carbamate | NC(=O)[C@H](CCCCCC(CC)=O)NC(OC(C)(C)C)=O | C15H28N2O4
